US04665075
To a stirred and cooled (5° C.) solution of 0.205 parts of 7-amino-3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,4(1H,3H)-quinazolinedione in 50 parts of an acetic acid solution 1N was added a solution of 0.1725 parts of sodium nitrite in 2 parts of water. The whole was stirred for 20 minutes at 5° C. A solution of 0.1625 parts of sodium azide in 2 parts of water was added and stirring was continued for 20 minutes at 5° C. in vacuo. 5.5 Parts of a sodium hydroxide solution 10N were added whereupon the product solidified. The product was filtered off and crystallized from acetonitrile. The product was filtered off and dried, yielding 0.120 parts (55%) of 7-azido-3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,4(1H,3H)quinazolinedione; mp. 193.7° C. (28).

reactant | 7-amino-3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,4(1H,3H)-quinazolinedione | NC1=CC=C2C(N(C(NC2=C1)=O)CCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)=O | C22H23FN4O3
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | water | O | H2O
solvent | acetic acid | 1N | C(C)(=O)O | C2H4O2
product | 7-azido-3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,4(1H,3H)quinazolinedione | 55% | N(=[N+]=[N-])C1=CC=C2C(N(C(NC2=C1)=O)CCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)=O | C22H21FN6O3
